US05998400
(a) 2-Amino-5-methoxythiophenol
A solution of 2-amino-6-methoxybenzothiazole (36 g, 200 mmol; Aldrich Chemical Co.) and 400 ml 30% aqueous potassium hydroxide was refluxed for 16 h. The dark solution was cooled to 0° C. and neutralized to pH 6 with 50% aqueous acetic acid and stirred for 1 h. The resulting slurry was filtered and the product collected on the filter paper and dried (25.29 g, 81% yield). 1H NMR (DMSO-d6) δ 6.91-6.44 (m, 3H), 5.90 (br s, 2H). 3.52 (s, 3H). MS Da/e=154 (M-H).

reactant | 2-amino-6-methoxybenzothiazole | 200 mmol, 36 g | NC=1SC2=C(N1)C=CC(=C2)OC | C8H8N2OS
reactant | potassium hydroxide | 400 ml | [OH-].[K+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-Amino-5-methoxythiophenol | 81% yield | NC1=C(C=C(C=C1)OC)S | C7H9NOS
